### PR TITLE
Team_F_changed_Ray.lean_&Ray_ex.lean&Ray_ex2.lean

### PR DESCRIPTION
**Pull request by mathzhuonichi**
Two lies_int_iff theorems added into Ray.lean, finished sorries in Ray_ex.lean and Ray_ex2.lean.

### CODE REVIEW

File: EuclideanGeometry/Foundation/Axiom/Linear/Ray.lean [hunk 1]
```diff
@@ -176,8 +176,72 @@ theorem Seg.target_not_lies_int : ¬ seg.target LiesInt seg := by sorry
 
 theorem Seg.lies_on_of_lies_int (p : P) : (p LiesInt seg) → (p LiesOn seg) := by sorry
 
+theorem Seg.lies_int_iff (p : P) : p LiesInt seg ↔ seg.is_nd ∧ ∃ (t:ℝ) , 0 < t ∧ t < 1 ∧ VEC seg.1 p = t • seg.toVec := by
+  constructor
+  rintro ⟨lieson,ns,nt⟩
+  rw[ne_iff_vec_ne_zero] at ns nt
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Ray.lean:182]: please stick to the format that `rw [aaa, bbb, ccc]` Thanks!

File: EuclideanGeometry/Foundation/Axiom/Linear/Ray_ex2.lean [hunk 2]
```diff
@@ -7,43 +7,232 @@ variable {P: Type _} [EuclideanPlane P]
...
+    simp only [add_lt_add_iff_left, gt_iff_lt]
+    nth_rw 2[←mul_one t]
+    apply mul_lt_mul_of_pos_left ylt1 (lt_of_le_of_ne tnonneg h)
+  apply lt_of_lt_of_le this
+  have :1=1-t+t:=by norm_num
+  nth_rw 2 [this]
+  apply add_le_add
+  nth_rw 2[←mul_one (1-t)]
+  apply mul_le_mul
+  linarith
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Ray_ex2.lean:73]: it is possible to apply a single tactic to all current goals.
`tactic A <;> tactic B` or
```
tactic A <;>
tactic B
```
applys `tactic B` to all current goals.

File: EuclideanGeometry/Foundation/Axiom/Linear/Ray_ex2.lean [hunk 3]
```diff
@@ -7,43 +7,232 @@ variable {P: Type _} [EuclideanPlane P]
...
+  rw[Seg.toVec,←vec_sub_vec seg₂.1,← vec_sub_vec seg₂.1 seg₁.1 seg₁.2,sub_eq_iff_eq_add,hx,hy,←sub_smul,smul_smul,←add_smul] at ht
+  use ( (1- t) * x + t * y)
+  have ynex:y≠x:= by
+    contrapose! nd
+    rw[Seg.is_nd,not_not,eq_iff_vec_eq_zero,←vec_sub_vec seg₂.1,hx,hy,←sub_smul,nd,sub_self,zero_smul]
+  constructor
+  by_cases 0=x
+  rw[←h,mul_zero,zero_add]
+  apply mul_pos
+  exact tpos
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Ray_ex2.lean:102]: maybe you can make these 2 lines into one line? same for the next 2 line.
